US07262185B2
2-mercapto-5-nitrobenzimidazole (2.0 g) was dissolved in ethanol (20 ml), 3N sodium hydroxide (8.2 ml) was added to the mixture, 5-chloromethyl-1-propylimidazole hydrochloride (2.2 g) was added to the mixture, and the mixture was stirred at room temperature for 3 hours. The solvent was removed under reduced pressure, and to the obtained residue was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 5-nitro-2-[[(1-propylimidazol-5-yl)methyl]thio]benzimidazole (1.6 g).

reactant | 2-mercapto-5-nitrobenzimidazole | 2.0 g | SC=1NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H5N3O2S
reactant | sodium hydroxide | 3N, 8.2 ml | [OH-].[Na+]
reactant | 5-chloromethyl-1-propylimidazole hydrochloride | 2.2 g | Cl.ClCC1=CN=CN1CCC
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-nitro-2-[[(1-propylimidazol-5-yl)methyl]thio]benzimidazole | 1.6 g | [N+](=O)([O-])C1=CC2=C(N=C(N2)SCC2=CN=CN2CCC)C=C1 | C14H15N5O2S
